US07598423B2
Synthesis of 5-(3-bromophenyl)isoxazol-3-ol
Add a solution of hydroxyamine (50% in water, 0.50 mL, 16.3 mmol) in water and NaOH (197 mg, 4.92 mmol) to a solution of methyl 3-(3-bromophenyl)propiolate (980 mg, 4.10 mmol) in a mixture of MeOH and THF (6.0 mL/12.0 mL). Remove the solvents after 2 d. Dissolve the residue in water. Adjust the pH of the aqueous phase to 2 and extract with EtOAc. Dry, filter and concentrate. Purify the residue by flash chromatography eluting with a mixture of EtOAc and hexanes (50:50) to afford the title compound (856 mg, 87%): 1H NMR (d6-DMSO) δ 11.54 (s, 1H), 8.08 (dd, 1H, J=2.0, 1.6 Hz), 7.87 (ddd, 1H, J=8.6, 1.6, 0.8 Hz), 7.75 (ddd, 1H, J=8.2, 2.0, 0.8 Hz), 7.54 (t, 1H, J=7.8 Hz), 6.75 (s, 1H).

reactant | hydroxyamine | 16.3 mmol, 0.50 mL | ON | H3NO
reactant | NaOH | 4.92 mmol, 197 mg | [OH-].[Na+]
reactant | methyl 3-(3-bromophenyl)propiolate | 4.10 mmol, 980 mg | BrC=1C=C(C=CC1)C#CC(=O)OC | C10H7BrO2
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | 5-(3-bromophenyl)isoxazol-3-ol | 856 mg, 87% | BrC=1C=C(C=CC1)C1=CC(=NO1)O | C9H6BrNO2
